US07511133B2
Synthesis of 2′,3′-O-Isopropylideneadenosine
A solution of p-toluenesulfonic acid (7.79 g, 0.45 mol) in dry acetone (100 ml) is added dropwise to a solution of adenosine (10 g, 0.037 mol) in dry acetone (300 ml). 2,2-Dimethoxypropane (18.18 ml, d=0.847) is then added to the reaction mixture, and the mixture stirred for 48 hours (TLC methylene chloride/ethanol 9:1). The solution slowly becomes clear and is made basic with 3% ammonium hydroxide (800 ml). The solvent is removed at reduced pressure, keeping the temperature below 30° C. until formation of a solid that is collected by filtration. This procedure is repeated several times by concentrating the filtrate. A white solid is obtained (10.08 g, 0.0328 mol, 87.7% yield).

reactant | p-toluenesulfonic acid | 0.45 mol, 7.79 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | adenosine | 0.037 mol, 10 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | 2,2-Dimethoxypropane | 18.18 ml | COC(C)(C)OC | C5H12O2
reactant | ammonium hydroxide | 800 ml | [OH-].[NH4+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 2′,3′-O-Isopropylideneadenosine | 87.7% yield | CC1(O[C@@H]2[C@H](O[C@H]([C@@H]2O1)N3C=NC4=C3N=CN=C4N)CO)C | C13H17N5O4
